US07741341B2
A solution of 500.0 mg (1.85 mmol) 5-Chloro-2-trichloromethyl-1H-benzoimidazole in 20 mL THF was added slowly to a mixture of 286 μl (2.04 mmol) diisopropyl-amine and 1.55 g (18.5 mmol, 10 equivalents) NaHCO3 in 70 mL THF and 20 mL water. The reaction mixture was stirred for 2 h at RT. The organic solvent was evaporated. The formed crystalline material was filtered off and treated once with about 50 mL of a saturated NaHCO3-solution under ultrasonic conditions. The crystalline residue was filtered off again and washed twice with 20 mL water. Drying under reduced pressure at 35° C. gave pure 5-Chloro-1H-benzoimidazole-2-carboxylic acid diisopropylamide in form of a light brown crystalline solid.

reactant | 5-Chloro-2-trichloromethyl-1H-benzoimidazole | 1.85 mmol, 500.0 mg | ClC1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C=C1 | C8H4Cl4N2
reactant | diisopropyl-amine | 2.04 mmol, 286 μl | C(C)(C)NC(C)C | C6H15N
reactant | NaHCO3 | 18.5 mmol, 1.55 g, 10 equivalents | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 5-Chloro-1H-benzoimidazole-2-carboxylic acid diisopropylamide | C(C)(C)N(C(=O)C1=NC2=C(N1)C=CC(=C2)Cl)C(C)C | C14H18ClN3O
